US08664217B2
2-Nitrobenzenesulfonyl chloride (22.1 g, 0.10 mol) was added to a dichloromethane solution (400 ml) of 3-aminopropanol (8.2 g, 0.11 mol) and triethylamine (21 ml, 0.15 mol) at 0° C., and stirred at room temperature overnight. Water was added to the reaction mixture and extraction with dichloromethane was performed. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in dichloromethane (400 ml), and 3,4-dihydro-2H-pyrane (9.3 g, 0.11 mol) and p-toluenesulfonic acid (1.9 g, 0.01 mol) were added thereto. Stirring was conducted at room temperature overnight. A 1N-sodium hydroxide aqueous solution was added to the reaction mixture, and extraction with dichloromethane was performed. The organic layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1→1:2). The purified product was concentrated under reduced pressure to thereby obtain 27.56 g (yield: 80%) of 2-nitro-N-[3-(tetrahydropyran-2-yloxy)propyl]benzenesulfonamide as a pale brown oil.

reactant | 2-Nitrobenzenesulfonyl chloride | 0.10 mol, 22.1 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 3-aminopropanol | 0.11 mol, 8.2 g | NCCCO | C3H9NO
reactant | triethylamine | 0.15 mol, 21 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-dihydro-2H-pyrane | 0.11 mol, 9.3 g | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 0.01 mol, 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-nitro-N-[3-(tetrahydropyran-2-yloxy)propyl]benzenesulfonamide | 27.56 g, yield: 80% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCCOC1OCCCC1 | C14H20N2O6S
